US04380464
2,4-Dimethyl-5-nitroaniline was reduced in the presence of Raney nickel utilizing substantially the same conditions described in Example 2 to form 2,4-dimethyl-1,5-phenylenediamine and that compound was sulfonated under the conditions of Example 3. The resulting 5-amino-2,4-dimethyltrifluoromethanesulfonanilide (10.72 g., 40 mmole) was dissolved in 1,2-dichloroethane (60 ml.), and the solution was cooled to a temperature of 0° to 5° C. To this solution was slowly added chloroacetyl chloride (10.16 g., 90 mmole). The solution was then heated at its reflux temperature for 10 hours. Hexane (100 ml.) was added to the hot reaction mixture, the reaction mixture was then filtered while hot, and the solid product was collected upon crystallization, m.p. 170°-172° C.

reactant | 2,4-Dimethyl-5-nitroaniline | CC1=C(N)C=C(C(=C1)C)[N+](=O)[O-] | C8H10N2O2
catalyst | Raney nickel | [Ni] | Ni
product | 2,4-dimethyl-1,5-phenylenediamine | CC1=C(C=C(C(=C1)C)N)N | C8H12N2
